US04264613
A suspension of 6.87 g of 3,4-dihydroxyphenyl chloromethylketone (trade product) and 8 g of 4-(2-oxobenzimidazolin-1-yl)piperidine (trade product), M.P. 183°-185° C., in 640 ml of methylethyl ketone, in the presence of 1.95 g of dried sodium carbonate and 0.1 g of sodium iodide, was refluxed for 12 hours. After the completion of the reaction, the precipitate was filtered off and washed with water. After drying, there were obtained 14 g of raw base which is transformed in hydrochloride in methanol by addition of hydrochloric ether. There were obtained 8 g of 1-(3,4-dihydroxy phenacyl)-4-(2-oxobenzimidazolin-1-yl)piperidine hydrochloride, white crystals melting at 310°-313° C.

reactant | 3,4-dihydroxyphenyl chloromethylketone | 6.87 g | OC=1C=C(C=CC1O)C(Cl)C(=O)C(C1=CC(=C(C=C1)O)O)Cl | C15H12Cl2O5
reactant | 4-(2-oxobenzimidazolin-1-yl)piperidine | 8 g | O=C1NC2=C(N1C1CCNCC1)C=CC=C2 | C12H15N3O
reactant | sodium carbonate | 1.95 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | hydrochloric ether | CCCl | C2H5Cl
solvent | methylethyl ketone | 640 ml | CC(=O)CC | C4H8O
solvent | hydrochloride | Cl | ClH
solvent | methanol | CO | CH4O
catalyst | sodium iodide | 0.1 g | [I-].[Na+]
product | 1-(3,4-dihydroxy phenacyl)-4-(2-oxobenzimidazolin-1-yl)piperidine hydrochloride | 8 g | Cl.OC=1C=C(C(CN2CCC(CC2)N2C(NC3=C2C=CC=C3)=O)=O)C=CC1O | InChI=1S/C20H21N3O4.ClH/c24-17-6-5-13(11-18(17)25)19(26)12-22-9-7-14(8-10-22)23-16-4-2-1-3-15(16)21-20(23)27;/h1-6,11,14,24-25H,7-10,12H2,(H,21,27);1H
